US05374641
Ethyl 4-[2-oxo-2-(3-pyridyl)ethyl]cinnamate (1.0 g) and ammonium formate (4.28 g) were stirred at 140° C. for four hours. To the reaction mixture was added water, followed by extraction with methylene chloride and washing of the organic phase in saturated aqueous sodium chloride solution, and dried over magnesium sulfate. Then, the solvent was evaporated off under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column, to yield 0.72 g of ethyl 4-[2-formamido-2-(3-pyridyl)ethyl]cinnamate from a fraction eluted with methanolmethylene chloride (4:96 v/v).

reactant | Ethyl 4-[2-oxo-2-(3-pyridyl)ethyl]cinnamate | 1.0 g | O=C(CC1=CC=C(C=CC(=O)OCC)C=C1)C=1C=NC=CC1 | C18H17NO3
reactant | ammonium formate | 4.28 g | C(=O)[O-].[NH4+]
solvent | water | O | H2O
product | ethyl 4-[2-formamido-2-(3-pyridyl)ethyl]cinnamate | 0.72 g | C(=O)NC(CC1=CC=C(C=CC(=O)OCC)C=C1)C=1C=NC=CC1 | C19H20N2O3
